US07067529B2
To a stirred solution of 6-cyclopentyloxy-7-methoxy-1-(3-methoxy-benzyl)-1,2-dihydro-isoquinoline-4-carbaldehyde (280 mg, 0.71 mmol) in chloroform (8 mL) was addend manganese (IV) oxide (728 mg, 7.12 mmol). The reaction mixture was stirred at room temperature for 15 hrs, filtered through a Celite® pad, and washed with chloroform. The filtrate was concentrated in vacuo to afford 6-cyclopentyloxy-7-methoxy-1-(3-methoxy-benzyl)-isoquinoline-4-carbaldehyde (280 mg, 99% yield). The crude product was without further purification.

reactant | 6-cyclopentyloxy-7-methoxy-1-(3-methoxy-benzyl)-1,2-dihydro-isoquinoline-4-carbaldehyde | 0.71 mmol, 280 mg | C1(CCCC1)OC=1C=C2C(=CNC(C2=CC1OC)CC1=CC(=CC=C1)OC)C=O | C24H27NO4
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese (IV) oxide | 7.12 mmol, 728 mg | [O-2].[Mn+4].[O-2]
product | 6-cyclopentyloxy-7-methoxy-1-(3-methoxy-benzyl)-isoquinoline-4-carbaldehyde | 280 mg, 99% yield | C1(CCCC1)OC=1C=C2C(=CN=C(C2=CC1OC)CC1=CC(=CC=C1)OC)C=O | C24H25NO4
